US06413984B1
13.0 g (56.8 mmol) of 1,1-dimethylethyl (R)-2-carboxypyrrolidine-1-carboxylate and 190 ml of dichloromethane are placed in a 500 ml three-necked flask fitted with a thermometer and a 250 ml addition funnel. The mixture is cooled to −20° C. on a bath of cardice and 7.91 ml (57 mmol) of triethylamine are added, followed by 7.01 ml (56.8 mmol) of pivaloyl chloride. The mixture is stirred vigorously for 15 minutes at −10° C., the temperature is then allowed to rise to 0° C., and a solution of 11.07 g (113 mmol) of N,O-dimethylhydroxylamine hydrochloride and 17.4 ml (125 mmol) of triethylamine in 160 ml of dichloromethane is added dropwise. The reaction mixture is allowed to warm to room temperature over 120 minutes and is then cooled to 0° C. on an ice bath and 100 ml of a 0.1N hydrochloric acid solution are added. The organic phase is washed successively with 100 ml of 0.2M sodium hydroxide solution and with 200 ml of brine, and is then dried over magnesium sulfate and concentrated. The residue is purified by chromatography on a column of silica (elution solvent: 50% ethyl acetate in cyclohexane). 14.26 g (yield: 92%) of 1,1-dimethylethyl (R)-2-[(methoxymethylamino)carbonyl]pyrrolidine-1-carboxylate are obtained in the form of a colorless oil.

reactant | 1,1-dimethylethyl (R)-2-carboxypyrrolidine-1-carboxylate | 56.8 mmol, 13.0 g | C(=O)(O)[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C10H17NO4
reactant | cardice | C(=O)=O | CO2
reactant | triethylamine | 57 mmol, 7.91 ml | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 56.8 mmol, 7.01 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | N,O-dimethylhydroxylamine hydrochloride | 113 mmol, 11.07 g | Cl.CNOC
reactant | triethylamine | 125 mmol, 17.4 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 0.1N | Cl | ClH
solvent | dichloromethane | 160 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 190 ml | ClCCl | CH2Cl2
product | 1,1-dimethylethyl (R)-2-[(methoxymethylamino)carbonyl]pyrrolidine-1-carboxylate | 14.26 g, yield: 92% | COCNC(=O)[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C12H22N2O4
